US08217045B2
6-[[6-(Acetylamino)-pyrimidin-4-yl]oxy]-naphthalene-1-carboxylic acid [3-(4-methyl-imidazol-1-yl)-5-trifluoromethyl-phenyl]-amide
Anhydrous tripotassium phosphate (848 mg, 4.0 mmol) is added to a stirred solution of 6-hydroxy-N-[3-(4-methyl-1H-imidazol-1-yl)-5-(trifluoromethyl)phenyl]-1-naphthalenecarboxamide (411 mg, 1.0 mmol) in toluene (40 mL) under an argon atmosphere at 110° C. N-(6-Chloro-4-pyrimidinyl)-acetamide (252 mg, 1.5 mmol) is added and the mixture is stirred at 110° C. for a further 50 hours. The solvent is evaporated off under reduced pressure and the residue is washed with a saturated aqueous solution of NH4Cl and dried. The crude product is purified by recrystallisation from methanol to afford the title compound as a beige solid, m.p.: 291-293° C.

reactant | tripotassium phosphate | 4.0 mmol, 848 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 6-hydroxy-N-[3-(4-methyl-1H-imidazol-1-yl)-5-(trifluoromethyl)phenyl]-1-naphthalenecarboxamide | 1.0 mmol, 411 mg | OC=1C=C2C=CC=C(C2=CC1)C(=O)NC1=CC(=CC(=C1)C(F)(F)F)N1C=NC(=C1)C | C22H16F3N3O2
reactant | N-(6-Chloro-4-pyrimidinyl)-acetamide | 1.5 mmol, 252 mg | ClC1=CC(=NC=N1)NC(C)=O | C6H6ClN3O
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
product | 6-[[6-(Acetylamino)-pyrimidin-4-yl]oxy]-naphthalene-1-carboxylic acid [3-(4-methyl-imidazol-1-yl)-5-trifluoromethyl-phenyl]-amide | CC=1N=CN(C1)C=1C=C(C=C(C1)C(F)(F)F)NC(=O)C1=CC=CC2=CC(=CC=C12)OC1=NC=NC(=C1)NC(C)=O | C28H21F3N6O3
